### PR TITLE
Add Erdős Problem 816 (equal-degree vertices joined by a path of length 3), link the formal proof

### LINKED ISSUE #6240: Erdős Problem 816
### What is the Erdős problem?

https://www.erdosproblems.com/816

Let $G$ be a graph with $2n+1$ vertices and $n^2+n+1$ edges. Must $G$ contain two vertices of the same degree which are joined by a path of length $3$?

Status: proved (Chen–Ma, who show that for $n \geq 600$ every such graph with at least $n^2+n$ edges other than $K_{n,n+1}$ works). A formal proof exists in plby/lean-proofs (`Erdos816.erdos_816`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6240.

### What changed
Adds `FormalConjectures/ErdosProblems/816.lean` with `HasEqualDegreePathThree G` (two distinct vertices of equal degree joined by a path — a `Walk` with `IsPath` — of length `3`) and:
- `erdos_816` (`research solved`, `answer(True)`): every graph on `2n+1` vertices with `n²+n+1` edges (`n ≥ 2`; for `n = 1` the graph is a triangle) has this property (Chen–Ma [ChMa25]). Linked to plby/lean-proofs `Erdos816.erdos_816` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_816.variants.chen_ma`: the stronger form for `n ≥ 600` and `≥ n²+n` edges, excluding `K_{n,n+1}`.
- `erdos_816.variants.complete_bipartite`: `K_{n,n+1}` has `n²+n` edges and fails the property.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos816.erdos_816` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby gives the three edges of the path with all six distinctness conditions; the bridge assembles the `Walk`):

<details>
<summary>Bridge</summary>

```lean
theorem erdos_816_bridge : type_of% Erdos816.erdos_816 := by
  show True ↔ _
  simp only [true_iff]
  intro n hn G hE
  classical
  obtain ⟨u, v, huv, hdeg, x, y, hux, huy, huv', hxy, hxv, hyv, hadj1, hadj2, hadj3⟩ :=
    Erdos816Plby.erdos_816 G n hn (by simp) (by convert hE)
  refine ⟨u, v, huv, by convert hdeg, Walk.cons hadj1 (Walk.cons hadj2 (Walk.cons hadj3 Walk.nil)),
    ?_, by simp⟩
  simp [Walk.isPath_def, Walk.support, hux, huy, huv', hxy, hxv, hyv]
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«816»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/816.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/816.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks!
